US04396627
N-[3-(4-Hydroxymethylphenyl)-1-methylpropyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine
A solution of N-[3-(4-carbomethoxyphenyl)-1-methylpropyl]-2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine (2.5 g) in dry ether (50 ml) was added to a suspension of lithium aluminium hydride (0.88 g) in dry ether (100 ml) under an atmosphere of nitrogen and the resulting mixture was boiled for 1 hour before being cooled and treated with water (0.9 ml); 2 N NaOH (1.8 ml) then water (2.7 ml) and stirred for a further hour.

reactant | N-[3-(4-carbomethoxyphenyl)-1-methylpropyl]-2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine | 2.5 g | C(=O)(OC)C1=CC=C(C=C1)CCC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C21H24F3NO3
reactant | lithium aluminium hydride | 0.88 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.9 ml | O | H2O
reactant | NaOH | 2 N, 1.8 ml | [OH-].[Na+]
reactant | water | 2.7 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-[3-(4-Hydroxymethylphenyl)-1-methylpropyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | OCC1=CC=C(C=C1)CCC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C20H24F3NO2
